US08980911B2
To a stirred solution of 3,5-dichloro-4-{[4-(cyclopropylcarbonyl)-1H-pyrrolo[3,2-c]pyridin-1-yl]carbonyl}benzoic acid (40 mg, 0.095 mmol), 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide (22 mg, 0.115 mmol) and 15 mg 1-hydroxybenzotriazole (15 mg, 0.115 mmol) in dimethylformamide, was added N,N-dimethylethane-1,2-diamine (8.4 mg, 0.095 mmol). The resulting reaction mixture was stirred at room temperature for about 16 hours. The reaction mixture was poured drop wise into ie-cooled saturated aquoeus sodium bicarbonate solution. The precipitated solid was filtered, washed with water and dried under vacuum. The solid thus obtained was triturated with diethyl ether, filtered and dried to get 3,5-dichloro-4-{[4-(cyclopropylcarbonyl)-1H-pyrrolo[3,2-c]pyridin-1-yl]carbonyl}-N-[2-(dimethylamino)ethyl]benzamide (11 mg, 25%).

reactant | 3,5-dichloro-4-{[4-(cyclopropylcarbonyl)-1H-pyrrolo[3,2-c]pyridin-1-yl]carbonyl}benzoic acid | 0.095 mmol, 40 mg | ClC=1C=C(C(=O)O)C=C(C1C(=O)N1C=CC=2C(=NC=CC21)C(=O)C2CC2)Cl | C19H12Cl2N2O4
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide | 0.115 mmol, 22 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 0.115 mmol, 15 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-dimethylethane-1,2-diamine | 0.095 mmol, 8.4 mg | CN(CCN)C | C4H12N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3,5-dichloro-4-{[4-(cyclopropylcarbonyl)-1H-pyrrolo[3,2-c]pyridin-1-yl]carbonyl}-N-[2-(dimethylamino)ethyl]benzamide | 11 mg, 25% | ClC=1C=C(C(=O)NCCN(C)C)C=C(C1C(=O)N1C=CC=2C(=NC=CC21)C(=O)C2CC2)Cl | C23H22Cl2N4O3
